US06486156B1
Methyl 5-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate was prepared in a similar way to that described for methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate in Example 2 but using 4-(4-fluorophenethyl)-3-methoxycarbonylbenzyl triphenylphosphonium bromide instead of 3-(4-fluorophenyl)4-methoxycarbonylbenzyl triphenylphosphonium bromide. Yield: 70%

reactant | methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | N1(C=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C20H17FN2O2
reactant | 4-(4-fluorophenethyl)-3-methoxycarbonylbenzyl triphenylphosphonium bromide | [Br-].FC1=CC=C(CCC2=C(C=C(C[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)C(=O)OC)C=C1
product | Methyl 5-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate | Yield: 70% | N1(C=NC=C1)CC=CC=1C=CC(=C(C(=O)OC)C1)CCC1=CC=C(C=C1)F | C22H21FN2O2
